### PR TITLE
feat: add a "M tensor B is a B-module/algebra" scope

### PR DESCRIPTION
**Pull request by kbuzzard**
a) I got sick of `attribute [local instance] Algebra.TensorProduct.rightAlgebra` and then continually making A tensor_R B into a B-algebra, a topological ring when B is a topological ring, a finite B-module when A is a finite R-module etc etc, so I have dumped everything into a scope.

b) There's a diamond unless you're super-careful when you want to make M tensor_R B into a B-module. I fixed that too.

tl;dr: don't do `attribute [local instance] Algebra.TensorProduct.rightAlgebra` any more, do `open scoped TensorProduct.RightActions`.

### CODE REVIEW

File: FLT/Mathlib/Algebra/Algebra/Bilinear.lean [hunk 1]
```diff
@@ -51,8 +52,10 @@ def SemialgHom.baseChangeRightOfAlgebraMap [Algebra R S] [CommSemiring A] [Algeb
     letI := ψ.toAlgebra
     S ⊗[R] A →ₐ[A] B :=
   letI := ψ.toAlgebra
-  AlgHom.changeScalars R A ψ.baseChange_of_algebraMap
-    (by simp [RingHom.algebraMap_toAlgebra, SemialgHom.toLinearMap_eq_coe])
+  AlgHom.changeScalars R A ψ.baseChange_of_algebraMap <| by
+    intro a
+    rw [show (algebraMap A (S ⊗[R] A)) a = 1 ⊗ₜ a from rfl]
+    simp [RingHom.algebraMap_toAlgebra, SemialgHom.toLinearMap_eq_coe]
```
Comment (kbuzzard) [inline FLT/Mathlib/Algebra/Algebra/Bilinear.lean]: This change is probably not necessary.

File: FLT/NumberField/Completion/Infinite.lean [hunk 2]
```diff
@@ -92,12 +91,12 @@ theorem finrank_prod_eq_finrank [NumberField K] :
...
   exact Finset.sum_congr rfl (fun w _ => finrank_eq_ramificationIdx w)
 
-attribute [local instance] Algebra.TensorProduct.rightAlgebra in
 theorem finrank_pi_eq_finrank_tensorProduct [NumberField K] :
     Module.finrank v.Completion ((w : v.Extension L) → w.1.Completion) =
       Module.finrank v.Completion (L ⊗[K] v.Completion) := by
-  rw [← (Algebra.TensorProduct.comm K v.Completion L).extendScalars v.Completion
-      |>.toLinearEquiv.finrank_eq, Module.finrank_tensorProduct, Module.finrank_self, one_mul,
+  rw [(TensorProduct.RightActions.Algebra.TensorProduct.comm
+       K v.Completion L).symm.toLinearEquiv.finrank_eq,
```
Comment (kbuzzard) [inline FLT/NumberField/Completion/Infinite.lean:98]: Is the symm necessary?

Comment (kbuzzard) [reply FLT/NumberField/Completion/Infinite.lean:98]: (yes)

File: FLT/Mathlib/Algebra/Algebra/Bilinear.lean (hunk 1 above)
Comment (kbuzzard) [reply FLT/Mathlib/Algebra/Algebra/Bilinear.lean]: Indeed it's not
